Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
"I'm depressed"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, ___ is a ___ year old woman with an 
extensive
history of depression and polysubstance abuse, with multiple
psychiatric admissions including 2 on ___ with recent
discharge on ___, who self-presents with her boyfriend to 
the
___ ED today with worsening depressed mood and suicidal
ideation with plan to overdose on antihypertensive medications,
in setting of being rejected by her family during the holiday
season and medication noncompliance. 

On admission to ___ 4, patient confirms history as documented 
in
the ED consult notes, but refuses to engage in indepth 
discussion
about her symptoms or psychosocial stressors. She does report
doing better after her discharge from ___ 4 earlier this year.
She was pleased about getting her sec 8 voucher, however patient
has been feeling depressed for the past several months (she
stopped taking Prozac a few months ago d/t it losing it's 
effect)
and her depression has worsened more recently d/t the upcoming
holidays. She says this time of year is typically very difficult
for her d/t missing her children who are in her ex-husbands
custody. 

Since being discharged patient says she has continued to live at
___ and has started a relationship with a new
man whom she feels comfortable and safe with. she denies using
drugs until recently. She says her depression lead her to use
heroin in the 2 days leading up to her presentation. Patient 
says
she new she needed to come in d/t resuming drug use and
developing thoughts of "I want to kill myself." She request to
start celexa as her brother finds this medication helpful for 
his
depression. 

Presently she complains of being anxious, and requests vistoril.
She also has several requests such as "can you give me something
for anxiety?" "will someone turn the heat down in my room?" "can
you start me on an antidepressant, my brother takes celexa." and
"I need nicotine a patch 21mg and 2mg lozenges." 

Patient still with passive SI, but feels able to keep herself
safe in the hospital. 
 
Past Medical History:
-HTN
-Asthma
-Herniated disc
History of head injuries: Yes, from being beat up, 2 concussions
with subsequent memory difficulties
History of seizures: Denies
 
Social History:
___
Family History:
Mother: depression
Father: depression, now deceased
Brother: anxiety
Brother: ADHD
Denies family history of attempted or completed suicides
 
Physical Exam:
*VS: 98.6, 130/101, 69, 16, 100%RA
Wt- 151 lbs
Ht- 62"
General- NAD, well nourished
Skin- No visable lesion
HEENT- PERRLA
Lungs- CTAB
CV- RRR
Abdomen: soft, NTND
Extremities- Full strength in upper and lower ext. Moves all
spontaneously and equally.
Neurological:  
Cranial Nerves- ___nd gait: within normal limits
tone and strength: within normal limits

Cognition: 
 Wakefulness/alertness: alert, awake
 *Attention: correctly spells WORLD backwards
 *Orientation: AAOX2, does not know date but does know month is
___ and year ___.
 *Memory:  ___ registration, ___ recall 
 *Fund of knowledge:  knows current president.
 Calculations:  correctly states 7 quarters in $1.75
 Abstraction: correctly describes "don't judge a book by its
cover"
 *Speech: normal rate/volume/prosody
 *Language: fluent ___
 
Pertinent Results:
___ 07:30PM URINE  HOURS-RANDOM
___ 07:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG oxycodn-INTERFEREN mthdone-NEG
___ 07:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-SM 
___ 07:30PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 07:30PM URINE  MUCOUS-FEW
___ 07:26PM   GLUCOSE-92 UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-24 ANION GAP-16
___ 07:26PM   estGFR-Using this
___ 07:26PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:26PM   WBC-9.3 RBC-3.79* HGB-11.9 HCT-36.2 MCV-96 
MCH-31.4 MCHC-32.9 RDW-12.3 RDWSD-42.6
___ 07:26PM   NEUTS-44.4 ___ MONOS-7.3 EOS-2.9 
BASOS-0.5 IM ___ AbsNeut-4.11 AbsLymp-4.14* AbsMono-0.68 
AbsEos-0.27 AbsBaso-0.05
___ 07:26PM   PLT COUNT-264
 
Brief Hospital Course:
PSYCHIATRIC
#)On admission, patient reported anxiety , depressed mood and 
was not taking any medications. 

During hospitalization, she was detoxed from opioids using 
supportive medications. She was restarted on her prior 
medications and discharged on citalopram 4mg, quetiapine 50mg 
qam and qpm and 100mg qHS. She was also started on clonidine for 
her anxiety. She tolerated these medications well. During 
admission she was motivated  and engaged in her treatment while 
on the unit. 

On discharge, mood was good, MSE was pertinent for euthymic 
affect with linear thought process and no suicidal ideation. 

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
#)Hypertension- patient was normotensive while on the unit. Her 
home dose of metoprolol was held and not restarted at discharge. 

-Recommend f/u with outpt providers as clinically indicated

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was highly animated, euthymic, and participatory in 
the milieu. The patient was very visible on the unit and 
frequently had conversations with her peers. She attended some 
groups. She never engaged in any unsafe behaviors. The pt ate 
all meals in the milieu, slept well, and cooperated with unit 
rules.

#) FAMILY CONTACTS
Patient declined family meetings. 

#) COLLATERAL
Collateral was reviewed from prior hospitalizations. 

LEGAL STATUS
The pt remained on a CV throughout the duration of this 
admission.

RISK ASSESSMENT:
This patient is not suicidal/homicidal, is feeling well and is 
animated, euthymic, and participatory in the milieu, all of 
which indicate a low immediate risk of harm.
Static risk factors include:
-chronic and severe mental illness,
Modifiable risk factors include:
- active polysubstance misuse, acute major mood episode. We 
modified this risk by uptitrating the patient's celexa and 
Seroquel. 
Protective factors include:
-Protective factors include current outpatient 
providers/treatment, skills in problem solving, conflict 
resolution and handling problems in a non-violent way. Current 
risk is low for intentional self-harm given that pt denies 
suicidal ideation, intent and plan, is accepting of treatment, 
is currently sober and is future oriented with plans to obtain 
housing and continue with treatment. 

INFORMED CONSENT
I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS:
Good due to the fact that patient was future oriented and 
motivated to  get treatment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H wheezing and sob 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Ibuprofen 800 mg PO Q8H:PRN pain 
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
5. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing and sob 
2. Citalopram 40 mg PO DAILY 
RX *citalopram 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
3. CloniDINE 0.1 mg PO TID 
RX *clonidine HCl 0.1 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
4. QUEtiapine Fumarate 50 mg PO QAM 
RX *quetiapine 50 mg 1 tablet(s) by mouth qAM Disp #*30 Tablet 
Refills:*0
5. QUEtiapine Fumarate 50 mg PO QPM 
RX *quetiapine 50 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*0
6. QUEtiapine Fumarate 100 mg PO QHS 
RX *quetiapine 100 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced mood disorder
Opioid Use Disorder

 
Discharge Condition:
Improved

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___